US08791119B2
To a suspension of 0.24 g (0.71 mmol) of 6-bromo-7-(3-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxamide is added 0.30 ml (2.13 mmol) of triethylamine and then, at 0° C., 0.10 ml (0.85 mmol) of tert-butyl isocyanate. After reaction for 1 hour at room temperature, the mixture is treated with aqueous 1N sodium hydroxide solution and the product is extracted with dichloromethane. The organic phase is dried over sodium sulfate and filtered, and the solvent is evaporated off under reduced pressure. The residue is purified by chromatography on a column of 40 g of silica gel, eluting with a mixture of 4% methanol in dichloromethane, to give 0.16 g of 6-bromo-7-(3-fluorophenyl)-N2-(tert-butyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide in the form of a powder after recrystallization from 10 ml of acetonitrile, filtering and drying under reduced pressure.

reactant | 6-bromo-7-(3-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxamide | 0.71 mmol, 0.24 g | BrC1=C(C(=C2N1CCNC2)C(=O)N)C2=CC(=CC=C2)F | C14H13BrFN3O
reactant | triethylamine | 2.13 mmol, 0.30 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl isocyanate | 0.85 mmol, 0.10 ml | C(C)(C)(C)N=C=O | C5H9NO
reactant | sodium hydroxide | 1N | [OH-].[Na+]
product | 6-bromo-7-(3-fluorophenyl)-N2-(tert-butyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxamide | 0.16 g | BrC1=C(C(=C2N1CCN(C2)C(=O)NC(C)(C)C)C(=O)N)C2=CC(=CC=C2)F | C19H22BrFN4O2
